US07119207B2
6-Methoxy-1-methyl-7-{[1-((2S)-1-methyl-5-oxo-pyrrolidin-2-ylmethyl)-(2S,3S)-2-phenyl-piperidin-3-ylamino]-methyl}-3,4-dihydro-1H-quinolin-2-one
To 6-Methoxy-1-methyl-7-{[1-(5-oxo-pyrrolidin-2-ylmethyl)-(2S,3S)-2-phenyl-piperidin-3-ylamino]-methyl}-3,4-dihydro-1H-quinolin-2-one (194 mg, 0.408 mmol) in 5 mL of THF at room temperature was added 18 mg (0.448 mmol) of 60% sodium hydride suspended in mineral oil and stirred for 20 minutes. Methyl iodide (0.028 mL, 0.448 mmol) was then added and stirred for 1 hour 18 mg (0.448 mmol) of 60% sodium hydride suspended in mineral oil was added and stirred overnight. A small amount of water was added and the solvent was removed under vacuum. The residue was dissolved in ethyl acetate, washed twice with water, dried over MgSO4, filtered, and concentrated. Silica gel chromatography using (95:5 ethyl acetate/methanol) as the eluent gave 25 mg (13%) of the title compound, a pale yellow oil. Rf=0.07 (9:1 ethyl acetate/methanol). MS (M+H)+=491.2; 1H NMR (400 MHz, CDCl3): δ 1.42–1.60 (m, 3H), 1.84–1.88 (dd, J=13.4 Hz, 4.8 Hz, 1H), 2.01–2.14 (m, 5H), 2.17–2.24 (m, 2H), 2.54–2.57 (t, J=7.3 Hz, 3H), 2.67–2.73 (m, 1H), 2.76–2.78 (t, J=7.3 Hz, 2H), 2.88 (s, 3H), 3.13 (s, 3H), 3.21–3.24 (d, J=10.9 Hz, 1H), 3.32–3.33 (d, J=3.0 Hz, 1H), 3.36–3.40 (d, J=14.3 Hz, 1H), 3.56 (s, 3H), 3.61–3.68 (m, 2H), 6.49 (s, 1H), 6.65 (s, 1H), 7.18–7.34 (m, 5H). 13C NMR (100 MHz, CDCl3): δ 20.4, 23.9, 25.5, 27.5, 29.6, 31.8, 45.4, 54.2, 55.5, 56.3, 58.0, 59.9, 72.7, 109.9, 116.0, 127.1, 128.1, 129.0, 133.6, 140.9, 152.8, 170.0, 175.0. The dihydrochloride salt was prepared by the addition of 2 M HCl In ether to a solution of the product in ethyl acetate. Concentration gave a white solid.

reactant | 6-Methoxy-1-methyl-7-{[1-(5-oxo-pyrrolidin-2-ylmethyl)-(2S,3S)-2-phenyl-piperidin-3-ylamino]-methyl}-3,4-dihydro-1H-quinolin-2-one | 0.408 mmol, 194 mg | COC=1C=C2CCC(N(C2=CC1CN[C@@H]1[C@@H](N(CCC1)CC1NC(CC1)=O)C1=CC=CC=C1)C)=O | C28H36N4O3
reactant | sodium hydride | 0.448 mmol, 18 mg | [H-].[Na+]
reactant | Methyl iodide | 0.448 mmol, 0.028 mL | CI | CH3I
reactant | sodium hydride | 0.448 mmol, 18 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-Methoxy-1-methyl-7-{[1-((2S)-1-methyl-5-oxo-pyrrolidin-2-ylmethyl)-(2S,3S)-2-phenyl-piperidin-3-ylamino]-methyl}-3,4-dihydro-1H-quinolin-2-one | 25 mg, 13% | COC=1C=C2CCC(N(C2=CC1CN[C@@H]1[C@@H](N(CCC1)C[C@H]1N(C(CC1)=O)C)C1=CC=CC=C1)C)=O | C29H38N4O3
